US08541588B2
4-(5-Chloro-2-hydroxyphenyl)pyridine-2-carbaldehyde
(5-Chloro-2-hydroxyphenyl) boronic acid (1.58 g, 0.00914 mol) was combined with 4-bromopyridine-2-carbaldehyde (1.70 g, 0.0091 mol), bis(triphenylphosphine)palladium (II) chloride (0.321 g, 0.00046 mol) and potassium carbonate (3.16 g, 0.0228 mol) in a 5 mL microwave vial. 1,4-dioxane (3 mL) and water (0.2 mL) were added and heated to 100° C. for 50 minutes in the microwave. The reaction was diluted with ethyl acetate (30 mL) and water (20 mL), filtered, the organic phase was separated then dried over anhydrous sodium sulphate, concentrated in vacuo and purified by flash column chromatography, ISCO™ (80 g column, eluting with 100% heptane to 50% v/v ethyl acetate in heptane) to give the title compound as a beige solid (0.47 g).

reactant | (5-Chloro-2-hydroxyphenyl) boronic acid | 0.00914 mol, 1.58 g | ClC=1C=CC(=C(C1)B(O)O)O | C6H6BClO3
reactant | 4-bromopyridine-2-carbaldehyde | 0.0091 mol, 1.70 g | BrC1=CC(=NC=C1)C=O | C6H4BrNO
reactant | potassium carbonate | 0.0228 mol, 3.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.00046 mol, 0.321 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | water | 0.2 mL | O | H2O
product | 4-(5-Chloro-2-hydroxyphenyl)pyridine-2-carbaldehyde | 0.47 g | ClC=1C=CC(=C(C1)C1=CC(=NC=C1)C=O)O | C12H8ClNO2
